US06203785B1
Alkylation of Crosslinked Polydiallylamine with 1-bromododecane
The ground polymer of Example 23 (5 g) was placed in a 500 mL 3-necked round-bottomed flask and suspended in 100 L deionized water and the suspension was stirred with a mechanical stirrer. To this swollen gel, a solution of 15 g 1-bromodecane in 100 mL ethanol was added and the reaction mixture was stirred for 10 minutes. 2 g 50% aqueous sodium hydroxide was then added and the reaction mixture was stirred at room temperature for 40 minutes followed by heating to 75° C. Subsequently, an additional 4 g 50% NaOH was added in a 1 g batch at an interval of 1.5 hr (the base addition maintained a pH between 10 to 12). The reaction mixture was allowed to stir at 75° C. for a total period of 20 hr. After cooling to 30° C., 2 mL concentrated HCl was added and the mixture was stirred for 30 minutes. The polymer was filtered off and washed with 500 mL deionized water and 500 mL methanol. The filtered polymer particles were slurried in methanol (400 mL), stirred for 40 minutes and reisolated by filtration. This process was then repeated. The polymer was suspended in 500 mL 2M NaCl solution and the suspension was stirred for 40 minutes. The polymer was filtered off and this NaCl treatment was repeated two more times. The fitered polymer cake was washed with 500 mL deionized water and suspended in 500 mL deionized water. After stirring the suspension for 30 minutes, the polymer was filtered off and resuspended in 500 mL deionized water. The resulting suspension was stirred for 30 minutes. 1 mL concentrated HCl was added to the suspension, which was then stirred for 35 minutes. The pH of the suspension was found to be 2.2. The polymer was then filtered off and dried at 60° C. in a forced air oven, yielding 13.3 g of the alkylated polymer as a pale white solid. The polymer was ground and passed through a 140 mesh sieve.

reactant | water | O | H2O
reactant | 1-bromodecane | 15 g | BrCCCCCCCCCC | C10H21Br
reactant | sodium hydroxide | 2 g | [OH-].[Na+]
reactant | NaOH | 4 g | [OH-].[Na+]
reactant | HCl | 2 mL | Cl | ClH
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | 1-bromododecane | 13.3 g | BrCCCCCCCCCCCC | C12H25Br
